US07202069B2
Optimum pH of (R)-2-octanol Dehydrogenase
Then, we examined 4-chloroacetoacetic acid ethyl ester reductase activity of the enzyme obtained from Example 3 changing pH by using phosphate buffer (KPB), Tris-HCl buffer, and Glycine buffer. FIG. 2 shows relative activity with taking the maximal activity as 100. As a result, the optimum pH of the enzyme was from 5.0 to 6.5.

reactant | 4-chloroacetoacetic acid ethyl ester | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | Tris-HCl | C(C(CO)(CO)N)O.Cl
reactant | Glycine | NCC(=O)O | C2H5NO2
product | (R)-2-octanol | C[C@H](CCCCCC)O | C8H18O
